US05585394
A) 4-Chloro-2-[(1,1,3,3-tetramethylbutyl)amino]-1-nitrobenzene
A mixture of 20 g of 4-chloro-1,2-dinitrobenzene and 30 g of tert-octylamine in 300 ml of 95° EtOH is refluxed for 16 hours. The solvent is evaporated off under vacuum to give 13 g of the expected product after crystallization from an iso ether/heptane mixture (40/60; v/v). M.p.=108° C.

reactant | 4-chloro-1,2-dinitrobenzene | 20 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | tert-octylamine | 30 g | C(C)(C)(CC(C)(C)C)N | C8H19N
solvent | EtOH | CCO | C2H6O
product | 4-Chloro-2-[(1,1,3,3-tetramethylbutyl)amino]-1-nitrobenzene | 13 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])NC(CC(C)(C)C)(C)C | C14H21ClN2O2
